US04181795
The residue obtained from the reaction mixture by evaporation in vacuo, which consists of 3-trifluoroacetamido-1,2,4-tri-O-acetyl-3,6-dideoxy-β-L-talopyranose, is dissolved in 20 ml. of a 30% hydrogen bromide-acetic acid solution. After being kept for 2 hours at room temperature, 200 ml. of chloroform is added to the reaction mixture and the chloroform solution is washed with ice and water, a cold saturated sodium hydrogen carbonate solution, and water. The solution is dried over anhydrous magnesium sulfate and evaporated under reduced pressure to heavy syrup. The syrup is crystallized by adding ether, and recrystallization from a mixture of chloroform-ether gives 16 g. (92% yield) of 3-trifluoroacetamido-2,4-di-O-acetyl-3,6-dideoxy-β-L-talopyranosyl bromide.

reactant | 3-trifluoroacetamido-1,2,4-tri-O-acetyl-3,6-dideoxy-β-L-talopyranose | FC(C(=O)N[C@H]1[C@H]([C@@H](OC(C)=O)O[C@H]([C@H]1OC(C)=O)C)OC(C)=O)(F)F | C14H18F3NO8
reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-trifluoroacetamido-2,4-di-O-acetyl-3,6-dideoxy-β-L-talopyranosyl bromide | 92% yield | FC(C(=O)N[C@H]1[C@H]([C@H](O[C@H]([C@H]1OC(C)=O)C)Br)OC(C)=O)(F)F | C12H15BrF3NO6
